Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
nifedipine / Amitriptyline / Prilosec OTC / Terazosin / 
Amlodipine / Atenolol / Oxybutynin / Hydrochlorothiazide / 
spironolactone
 
Attending: ___
 
Chief Complaint:
?syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___, ___ only, with atrial fibrillation/flutter on 
dabigatran, coronary artery disease, diastolic heart failure 
(LVEF 60% in ___, hypertension, hyperlipidemia, ?SSS, and 
vascular dementia who was discharged yesterday from the ___ 
service after an admission for headache and nausea/vomiting 
found to have CHF with demand ischemia (trop 0.11 peak).  She 
was discharged with 4 new medications (imdur 60 for blood 
pressure, atorvastatin 80 and aspirin 325 for CAD, lasix 20 for 
CHF) which she picked up at her pharmacy. 

Per report from her sister: ___ hour after pt was discharged 
home, she had an episode of unresponsiveness at 5:30p last eve 
that lasted approximately 7 minutes. Sister describes pt 
appearance during this episode as having her tongue hanging out 
and had urinary incontinence. Her mentation returned to baseline 
after approximately 7 minutes.

Per the patient (with a translator): she does not remember 
passing out.  States she felt "unwell" but cannot tell me more.  
Does not remember if she took her medications or not (new or 
otherwise) but did have them picked up from the pharmacy.  Does 
not remember a prodrome or the actual event of "syncope".  No 
cp/sob/palps, currently no complaints and is hungry.

In the ED, initial vitals were: 98.2 65 130/53 28 98% RA.
 
Past Medical History:
Hypertension/hyperlipidemia
Coronary artery disease complicated by myocardial infarction 
Atrial fibrillation/flutter
Diastolic heart failure (LVEF 60% in ___
Vascular dementia
Headaches
Nephrolithiasis
Cataracts
Otitis media
Syncope/possible sick sinus syndrome
Status post cholecystectomy
Gastroesophageal reflux
Hyponatremia
Anemia
Lumbar radiculopathy
 
Social History:
___
Family History:
Mother deceased at ___ yo from breast cancer. Father deceased at 
___ yo. Son deceased at ___ yo from heart attack. 
 
Physical Exam:
PHYSICAL EXAMINATION:  
VS: 97.5 161/67 62 20 96%RA  
GEN Alert, oriented, no acute distress
HEENT NCAT MMM EOMI sclera anicteric, OP clear, left-sided 
hearing loss
NECK supple, no JVD, no LAD
PULM Good aeration, CTAB no wheezes, rales, ronchi
CV RRR normal S1/S2, no mrg
ABD soft NT ND normoactive bowel sounds, no r/g
EXT WWP 2+ pulses palpable bilaterally, trace pitting edema 
bilaterally
NEURO CNs2-12 intact, motor function grossly normal
SKIN no ulcers or lesions
 
Pertinent Results:
___ 08:10AM BLOOD WBC-5.6 RBC-3.55* Hgb-10.6* Hct-32.5* 
MCV-92 MCH-29.9 MCHC-32.7 RDW-14.1 Plt ___
___ 12:17PM BLOOD WBC-6.7 RBC-3.79* Hgb-11.2* Hct-34.3* 
MCV-91 MCH-29.5 MCHC-32.7 RDW-13.7 Plt ___
___ 08:10AM BLOOD Glucose-102* UreaN-26* Creat-1.2* Na-138 
K-3.9 Cl-100 HCO3-32 AnGap-10
___ 12:17PM BLOOD Glucose-175* UreaN-27* Creat-1.3* Na-137 
K-4.7 Cl-98 HCO3-26 AnGap-18
___ 05:56AM BLOOD Glucose-90 UreaN-25* Creat-1.2* Na-140 
K-4.0 Cl-102 HCO3-30 AnGap-12
___ 12:17PM BLOOD ___ 12:17PM BLOOD cTropnT-0.07*
___ 08:10AM BLOOD Calcium-10.2 Phos-3.6 Mg-2.2

CXR ___:
IMPRESSION: 
Persistent small bilateral effusions, larger on the left which 
have decreased in size.  Decreased pulmonary vascular 
congestion.  No evidence of superimposed acute cardiopulmonary 
process. 

CT Head ___:
IMPRESSION: 
No evidence of acute intracranial process. 

 
Brief Hospital Course:
___ hx atrial fibrillation/flutter on dabigatran, coronary 
artery disease, diastolic heart failure (LVEF 60% in ___, 
hypertension, hyperlipidemia, ?SSS, and vascular dementia who 
presents 12 hours post-discharge with possible syncope.

#Syncope: unclear etiology, tele with aflutter and 4:1 
conduction earlier now with sinus and occasional sinus pauses.  
Has had recent admissions for similar episodes of "feeling 
unwell" with and without syncope, attributed to her intrinsic 
nodal disease.  EKG unchanged, enzymes flat. ?whether her 
syncopal event was a sinus conversion pause.  Due to the 
recurrent and progressive nature of her symptoms, and her lack 
of support at home and concern that the next event could be 
terminal, she was discharged to a LTAC with plan to continue on 
telemetry for ___ weeks to capture any event.

#CHF: euvolemic upon admission and discharge.  Continued 
aspirin, lisinopril, lasix 20mg qday.  Might need further 
titration of her diuretics pending volume status.

#CAD: continued aspirin, atorvastatin, imdur.  No chest pain.  
EKG without changes, enzymes flat.

#HTN: started imdur on last admission.  Noted that when taken 
both at the same time in the AM she had BPs in the 100s 
transiently; this was changed to lisinopril HS and imdur AM.

#Afib/flutter: not symptomatic.  No rate control due to 
intrinsic nodal disease.  On dabigatran 75 BID.

Transitional Issues:
- evaluation for any syncopal event and review of telemetry
- daily weights and volume assessment
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q6H:PRN pain 
2. Aspirin 325 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Fluticasone Propionate NASAL 2 SPRY NU QPM 
5. Lidocaine 5% Patch 1 PTCH TD DAILY 
RLE pain 
6. Lisinopril 40 mg PO DAILY 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. Senna 1 TAB PO DAILY:PRN constipation 
10. Atorvastatin 80 mg PO DAILY 
11. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
12. Dabigatran Etexilate 75 mg PO BID 
13. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q6H:PRN pain 
2. Aspirin 325 mg PO DAILY 
3. Atorvastatin 80 mg PO DAILY 
4. Dabigatran Etexilate 75 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Fluticasone Propionate NASAL 2 SPRY NU QPM 
7. Furosemide 20 mg PO DAILY 
8. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
9. Lidocaine 5% Patch 1 PTCH TD DAILY 
RLE pain 
10. Lisinopril 40 mg PO HS 
11. Multivitamins W/minerals 1 TAB PO DAILY 
12. Pantoprazole 40 mg PO Q24H 
13. Senna 1 TAB PO DAILY:PRN constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute: syncope

Chronic: 
coronary artery disease, 
Chronic diastolic congestive heart failure, 
atrial fibrillation/flutter, 
possible sick sinus syndrome

 
Discharge Condition:
Mental Status: Confused - sometimes.  ___ speaking only.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for a fainting spell.  We are not sure what 
caused this episode, however it is possible that your heart is 
not beating properly.  We were unable to capture any of these 
episodes on our monitors, so we are sending you to a ___ 
facility that can monitor your heart rate in case these episodes 
happen again.

 
Followup Instructions:
___